US08431695B2
Preparation of 5-(2-benzyl-3-methyl-2H-indazol-6-yl)-7-(octahydro-pyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a stirred solution of tert-butyl 3-(4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate (300 mg, 0.66 mmol) and tetrakis(triphenylphosphine)palladium(0) (114 mg, 0.099 mmol) in degassed 1,4-dioxane (5 mL) and DMF (5 mL) were added 2-benzyl-3-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-indazole (345 mg, 0.99 mmol), K2CO3 (274 mg, 1.99 mmol), and H2O (1.0 mL). The reaction was degassed and heated (100° C.) for 17 h and then cooled to rt. The mixture was partitioned between ethyl acetate (250 mL) and saturated aqueous K2CO3 solution (200 mL). The layers were separated and the organic phase was washed, dried (Na2SO4), and concentrated to dryness. The crude residue was dissolved in dichloromethane (20 mL) and treated with trifluoroacetic acid (5 mL). The solution was allowed to stir for 30 minutes and concentrated. The mixture was partitioned between ethyl acetate (75 mL) and H2O (50 mL). The layers were separated and the organic phase was washed with 1N HCl (50 mL). The combined aqueous phase was transferred to a stirring mixture of ethyl acetate and pH 14 brine and allowed to stir for 30 minutes, keeping the pH above 12 with additional NaOH pellets as needed. The layers were partitioned and aqueous layer was extracted 2× with ethyl acetate (75 mL ea.). The combined organic phase was washed with brine, dried (Na2SO4), and concentrated to dryness. The residue was triturated with Et2O to obtain 135 mg (42%) of the desired product. 1H NMR (300 MHz, DMSO-d6) 7.91 (s, 1 H), 7.78 (d, 1 H), 7.52 (s, 1 H), 7.34-7.19 (m, 5 H), 7.21 (dd, 1H), 6.72 (s, 1H), 5.63 (s, 2H), 5.12 (dd, 1H), 3.73 (dd, 1H), 3.30-3.23 (m, 1H), 2.92 (dd, 1H), 2.75-2.64 (m, 4H), 2.61 (s, 3H), 2.41 (t, 1H), 2.25-2.06 (m, 4H); LC-MS [M+H]+=495, RT=2.17 min.

reactant | tert-butyl 3-(4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate | 0.66 mmol, 300 mg | NC1=NC=NN2C1=C(C=C2C2CN1C(CO2)CN(CC1)C(=O)OC(C)(C)C)Br | C18H25BrN6O3
reactant | 2-benzyl-3-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-indazole | 0.99 mmol, 345 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1C)B1OC(C(O1)(C)C)(C)C | C21H25BN2O2
reactant | K2CO3 | 1.99 mmol, 274 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 1.0 mL | O | H2O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.099 mmol, 114 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-benzyl-3-methyl-2H-indazol-6-yl)-7-(octahydro-pyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 135 mg, 42% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1C)C=1C=C(N2N=CN=C(C21)N)C2CN1C(CO2)CNCC1 | C28H30N8O
